US05607956
1-(2,5-Dimethyl-3-furyl)-1-(4-methyl-5-thiazolyl)ethanol
4-Methylthiazole (6.51 g) in dry tetrahydrofuran (50 ml) was stirred under an atmosphere of dry nitrogen and cooled to -70° C. and n-butyllithium (2.5M solution in hexane, 29 ml) was added dropwise. After 30 minutes trimethylsilylchloride (7.14 g) was added and the mixture was allowed to warm to room temperature. After 30 minutes the mixture was again cooled to -70° C. and n-butyllithium (2.5M solution in hexane, 29 ml) was added dropwise. After 30 minutes 3-acetyl-2,5-dimethylfuran (10 g) was added dropwise. The mixture was stirred at -70° C. for 1 hour and was then allowed to warm to room temperature. After 30 minutes, aqueous sodium hydrogen carbonate was added and the mixture was extracted with diethylether. The combined extracts were washed, dried and evaporated to give the title compound which was recrystallised from diethylether. M.p. 100.5°-101.5° C.

reactant | 4-Methylthiazole | 6.51 g | CC=1N=CSC1 | C4H5NS
reactant | n-butyllithium | 2.5M, 29 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 7.14 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 2.5M, 29 ml | C(CCC)[Li]
reactant | 3-acetyl-2,5-dimethylfuran | 10 g | C(C)(=O)C1=C(OC(=C1)C)C | C8H10O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,5-Dimethyl-3-furyl)-1-(4-methyl-5-thiazolyl)ethanol | CC=1OC(=CC1C(C)(O)C1=C(N=CS1)C)C | C12H15NO2S
